US06809108B1
(3R)-1-butyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl}-1-methylpiperidinium bromide
The title compound was prepared by a method similar to Example 128, using (2R)-N-{((3R)-1-butyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide and (bromomethyl)cyclopropane. The compound was obtained as a white foamy substance.

reactant | (2R)-N-{((3R)-1-butyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | C(CCC)N1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H52N4O4
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | (3R)-1-butyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl}-1-methylpiperidinium bromide | [Br-].C(CCC)[N+]1(C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | InChI=1S/C42H54N4O4.BrH/c1-3-4-25-46(2)26-15-16-32(31-46)29-43-40(49)37-23-14-24-44(37)41(50)38-27-36(47)30-45(38)39(48)28-42(33-17-8-5-9-18-33,34-19-10-6-11-20-34)35-21-12-7-13-22-35;/h5-13,17-22,32,36-38,47H,3-4,14-16,23-31H2,1-2H3;1H/t32-,36-,37-,38+,46?;/m1./s1
